US05334576
Preparation of 5-(3-hydroxy-3-methyl-1-butynyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid, methyl ester
A stirred mixture of 12.6 g of 5-bromo-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid, methyl ester, 3.4 g of 3-hydroxy-3-methyl-1-butyne, 0.02 g of bis(triphenylphosphine)palladium(II)-chloride, 0.04 g of triphenylphosphine, and 0.02 g of cuprous iodide in 300 mL of dry triethylamine is heated at reflux for 72 hours. The reaction is then filtered hot through celite, and the filtering agent is washed with methylene chloride. The combined filtrates were concentrated in vacuo, and the residue is partitioned between dilute aqueous hydrochloric acid and methylene chloride. The organic phase is washed with brine, dried, concentrated in vacuo, and the residue is chromatographed on silica gel using ether-methylene chloride mixtures to afford the desired product, mp 142°-145°.

reactant | 5-bromo-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid, methyl ester | 12.6 g | BrC=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O | C14H16BrN3O3
reactant | 3-hydroxy-3-methyl-1-butyne | 3.4 g | OC(C#C)(C)C | C5H8O
reactant | triphenylphosphine | 0.04 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | triethylamine | 300 mL | C(C)N(CC)CC | C6H15N
product | 5-(3-hydroxy-3-methyl-1-butynyl)-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinic acid, methyl ester | OC(C#CC=1C=NC(=C(C(=O)OC)C1)C=1NC(C(N1)(C)C(C)C)=O)(C)C | C19H23N3O4
